US08729271B2
N-[(4-Phenylpyridin-2-yl)methyl]propan-1-amine
Lithium aluminum hydride was added to a solution of 4-phenyl-N-propylpyridine-2-carboxamide (350 mg) in tetrahydrofuran (10 mL), and the mixture was stirred at room temperature for 1 hr, followed by stirring with heating at 70° C. for 2 hr. After the mixture was cooled in ice, 10% aqueous sodium hydroxide solution was added, and the resulting mixture was stirred at room temperature for 30 min. The reaction mixture was dried over anhydrous magnesium sulfate, the desiccant was filtered off and the solvent was distilled off under reduced pressure. The resulting residue was purified by column chromatography (NH silica gel cartridge, hexane:ethyl acetate=50:50-0:100) to afford the title compound (107 mg).

reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-phenyl-N-propylpyridine-2-carboxamide | 350 mg | C1(=CC=CC=C1)C1=CC(=NC=C1)C(=O)NCCC | C15H16N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[(4-Phenylpyridin-2-yl)methyl]propan-1-amine | 107 mg | C1(=CC=CC=C1)C1=CC(=NC=C1)CNCCC | C15H18N2
